US05547983
4-[(E)-2-(3-(1-adamantyl)-4-methoxyphenyl)propenyl]benzoic acid.
3 g (7.2 mol) of methyl 4-[(Z)-2-(3-(1-adamantyl)-4-methoxyphenyl)propenyl]benzoate are treated with 4 g of sodium hydroxide in 50 ml of methanol and refluxed for 2 h 30min. After evaporation, the reaction medium is treated under the conditions described in Example 1(b). After recrystallization from absolute ethanol, 2.4 g (84%) of 4-[(Z)-2-(3-(1-adamantyl)-4-methoxyphenyl)propenyl]benzoic acid are isolated, which acid melts at 267° C.

reactant | methyl 4-[(Z)-2-(3-(1-adamantyl)-4-methoxyphenyl)propenyl]benzoate | 7.2 mol, 3 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)\C(=C/C2=CC=C(C(=O)OC)C=C2)\C | C28H32O3
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[(E)-2-(3-(1-adamantyl)-4-methoxyphenyl)propenyl]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)/C(=C/C2=CC=C(C(=O)O)C=C2)/C | C27H30O3
